US08623862B2
Step 1: tert-Butyl 4-(1-methoxy-1-oxopropan-2-yl)piperazine-1-carboxylate.
2.97 g of potassium carbonate and 1.97 g of methyl 2-bromopropanoate are added to a solution of 2 g of tert-butyl piperazine-1-carboxylate in 36 ml of DMF, and then it is heated at 60° C. for 1 hour. After it returns to RT, 150 ml of EtOAc is added, it is washed with water, with brine, dried over Na2SO4 and then evaporated to dryness. 2.8 g of the expected compound is obtained in the form of a colorless oil.

reactant | potassium carbonate | 2.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromopropanoate | 1.97 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | tert-butyl piperazine-1-carboxylate | 2 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
solvent | DMF | 36 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(1-methoxy-1-oxopropan-2-yl)piperazine-1-carboxylate | 2.8 g | COC(C(C)N1CCN(CC1)C(=O)OC(C)(C)C)=O | C13H24N2O4
